US07019007B2
Step B: Preparation of (±)-trans-2-[4-(4-chlorobenzyl)piperidin-1-yl]-cyclohexylamine
A solution of (±)-trans-2-[4-(4-chlorobenzyl)piperidin-1-yl]-cyclohexanol (390 mg, 1.27 mmol) in CH2Cl2 (6 mL) at 0° C. was treated successively with Et3N (350 μL, 2.53 mmol) and MeSO2Cl (194 μL, 2.53 mmol), stirred at 0° C. for 2 hours, and partitioned between CH2Cl2 and 10% NH4OH. The aqueous phase was extracted with CH2Cl2 and the extracts were washed with brine, dried and concentrated. A solution of the residue in THF (3 mL) and 28–30 wt % NH4OH (1.2 mL) was stirred at 70° C. for 24 hours, allowed to cool to room temperature, and partitioned between EtOAc and 1 N NaOH. The aqueous phase was extracted with EtOAc and the extracts were washed with brine, dried and concentrated. Chromatography of the residue on alumina with 1:3 EtOAc:MeOH to 100% MeOH and a subsequent chromatography on alumina with 20:1 hexanes:EtOAc to 100% EtOAc followed by 3:1 EtOAc:MeOH to 100% MeOH gave the product (260 mg, 67%) as a tan oil which solidified upon standing: mp 69.1–70.4° C.; 1H NMR δ 1.03–1.34 (m, 6H), 1.37–1.52 (m, 1H), 1.57–1.77 (m, 5H), 1.92–2.05 (m, 3H), 2.48 (d, J=7.0 Hz, 2H), 2.45–2.64 (m, 3), 2.73 (m, 1H), 7.06 (m, 2H), 7.23 (m, 2H); MS m/z 307 (M+H)+.

reactant | (±)-trans-2-[4-(4-chlorobenzyl)piperidin-1-yl]-cyclohexanol | 1.27 mmol, 390 mg | ClC1=CC=C(CC2CCN(CC2)[C@H]2[C@@H](CCCC2)O)C=C1 | C18H26ClNO
reactant | Et3N | 2.53 mmol, 350 μL | CCN(CC)CC | C6H15N
reactant | MeSO2Cl | 2.53 mmol, 194 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | (±)-trans-2-[4-(4-chlorobenzyl)piperidin-1-yl]-cyclohexylamine | 260 mg, 67% | ClC1=CC=C(CC2CCN(CC2)[C@H]2[C@@H](CCCC2)N)C=C1 | C18H27ClN2
